US04172141
Thionyl chloride (5 ml.) and 2.0 g. of 1-[2-(2-naphthyl)-2-hydroxyethyl]imidazole are stirred at room temperature for about 20 minutes. Thereafter, the solution is evaporated to dryness and the residue is treated with ethyl acetate and filtered to yield 1-[2-(2-naphthyl)-2-chloroethyl]imidazole hydrochloride as a white solid.

reactant | Thionyl chloride | 5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 1-[2-(2-naphthyl)-2-hydroxyethyl]imidazole | C1=C(C=CC2=CC=CC=C12)C(CN1C=NC=C1)O | C15H14N2O
product | 1-[2-(2-naphthyl)-2-chloroethyl]imidazole hydrochloride | Cl.C1=C(C=CC2=CC=CC=C12)C(CN1C=NC=C1)Cl | InChI=1S/C15H13ClN2.ClH/c16-15(10-18-8-7-17-11-18)14-6-5-12-3-1-2-4-13(12)9-14;/h1-9,11,15H,10H2;1H
